US06586592B2
Step 6: Preparation of Tert-Butyl 4-[3-(ethylamino)-4-(phenylsulfonyl)phenyl]-1-piperazinecarboxylate
To a mixture of tert-butyl 4-[3-(acetylamino)-4-(phenylsulfonyl)phenyl]-1-piperazinecarboxylate (0.44 g, 0.96 mmol) in 7 nL of dry THF is added borane-methyl sulfide complex (0.28 mL, 2.8 mmol, 10.0 M). The mixture is stirred at rt overnight. The reaction is quenched upon dropwise addition of 10% HCl. Water (3.0 mL) and KOH (2.0 g) are added, the mixture heated at reflux for 6 h. At that time methanol (2 mL) is added and the mixture stirred at reflux overnight. After cooling to rt, the organics are removed under reduced pressure, the aqueous layer is saturated with NaCl, and extracted with CH2Cl2 (3×10 mL). The combined organic layers are dried over MgSO4, filtratered, and concentrated to give the crude product. Purification by column chromatography (15% EtOAc/hexane) gave 0.18 g (43%) of the pure title compound as an oil.

reactant | tert-butyl 4-[3-(acetylamino)-4-(phenylsulfonyl)phenyl]-1-piperazinecarboxylate | 0.96 mmol, 0.44 g | C(C)(=O)NC=1C=C(C=CC1S(=O)(=O)C1=CC=CC=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C23H29N3O5S
solvent | THF | 7 nL | C1CCOC1 | C4H8O
product | Tert-Butyl 4-[3-(ethylamino)-4-(phenylsulfonyl)phenyl]-1-piperazinecarboxylate | 0.18 g, 43% | C(C)NC=1C=C(C=CC1S(=O)(=O)C1=CC=CC=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C23H31N3O4S
